### PR TITLE
[Merged by Bors] - feat: forward port Mathlib.Logic.Basic lemmas

### PR DESCRIPTION
**Pull request by kmill**
[`logic.basic`@`feb99064803fd3108e37c18b0f77d0a8344677a3`..`13cd3e89b30352d5b1b7349f5537ea18ba878e40`](https://leanprover-community.github.io/mathlib-port-status/file/logic/basic?range=feb99064803fd3108e37c18b0f77d0a8344677a3..13cd3e89b30352d5b1b7349f5537ea18ba878e40)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Basic.lean [hunk 1]
```diff
@@ -560,9 +560,17 @@ theorem eqRec_heq' {α : Sort u_1} {a' : α} {motive : (a : α) → a' = a → S
   by subst t; rfl
 
 theorem rec_heq_of_heq {C : α → Sort _} {x : C a} {y : β} (e : a = b) (h : HEq x y) :
-    HEq (@Eq.ndrec α a C x b e) y := by subst e; exact h
+    HEq (e ▸ x) y := by subst e; exact h
```
Comment (kmill) [inline Mathlib/Logic/Basic.lean:563]: In mathlib 3, this theorem is always used in a context where `e ▸ x` will work. I changed it for readability, but if we want `Eq.ndrec` specifically for some reason I'll change it back.
